US04261997
4,9-dihydro-5-methoxy-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic Acid
A mixture of 4,9-dihydro-5-methoxy-9-oxo-pyrazolo-[5,1-b]quinazoline-2-carboxylic acid, hydrate (1:0.25) (2.64 g; 0.01 mole), anhydrous potassium carbonate (5.52 g; 0.04 mole) and methyl iodide (15 ml) in dimethyl formamide (75 ml) is stirred at room temperature for 2 days. Water is added and the grey solid is filtered off and taken up in 2(N) sodium hydroxide solution (50 ml) and methanol (50 ml). The mixture is heated under reflux for 2 hrs and the methanol is distilled off in vacuo. The aqueous solution is acidified with conc. HCl and the yellow precipitate is collected and recrystallized from methanol (275 ml), water (5 ml). Yield 0.33 g; mp 255° (d).

reactant | 4,9-dihydro-5-methoxy-9-oxo-pyrazolo-[5,1-b]quinazoline-2-carboxylic acid, hydrate | 0.01 mole, 2.64 g | O.COC1=CC=CC=2C(N3C(NC12)=CC(=N3)C(=O)O)=O
reactant | potassium carbonate | 0.04 mole, 5.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 15 ml | CI | CH3I
reactant | Water | O | H2O
solvent | dimethyl formamide | 75 ml | CN(C=O)C | C3H7NO
product | 4,9-dihydro-5-methoxy-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic Acid | COC1=CC=CC=2C(N3C(N(C12)C)=CC(=N3)C(=O)O)=O | C13H11N3O4
